Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Novocain
 
Attending: ___.
 
Chief Complaint:
Throat pain
 
Major Surgical or Invasive Procedure:
Fiberoptic Oropharynx Exam ___

 
History of Present Illness:
___ with history of CKD presents from home for evaluation of 
sore throat after concerning findings on Neck CT.

She has had right sided throat and neck pain for the last 2 
weeks. She was seen previously by her PCP who diagnosed her with 
bronchitis and PNA and she was treated with doxycycline. The 
pain from her sore throat caused her to have dysphagia to both 
solids and liquids. She states that she has pain in her throat 
that feels like knifes that is exacerbated with swallowing. She 
has had no relief with chlorhexadine throat spray or cepacol 
lozenges. She states she has dysphagia to solids and liquids due 
to pain. However, she also states that she feels the food does 
not pass down her throat and gets stuck. Furthermore, there was 
a day last week where she could not swallow her secretions and 
had to spit them up. Currently, she is able to swallow her 
secretions, but notes pain upon doing so.

She was seen 4 days prior to admission where she received Ceftin 
and IV fluids by her PCP. Due to progressive symptoms, she was 
seen by ENT at ___ who performed an endoscopic exam which 
demonstrated:

"Findings: Pediatric fiberoptic scope was passed through the 
right nasal cavity. Nasopharynx is symmetrical free of lesions 
or masses. Right lateral pharyngeal wall is edematous with 
blunting of the right piriform and mucous pooled in that area. 
There is some inflammation of the right hemilarynx. Vocal folds 
otherwise move equally. No airway obstruction. No obvious 
aspiration of secretions although potential exists for such.   
No glottic, supraglottic, posterior pharyngeal wall, or 
postcricoid lesions or masses.   No evidence of foreign body."

Based on this examination, there was concern for a deep space 
neck infection for which a CT neck was obtained and showed "Mild 
concentric wall thickening of the upper and mid trachea which 
suggests a nonspecific tracheal infectious/inflammatory 
process". Based on these findings, it was recommended that she 
be evaluated in the ___ ED for inpatient ENT consultation and 
IV antibiotics. 

She has no fevers or chills. She denies palpitations or dyspnea. 
She notes substernal, sharp chest pain that is exacerbated with 
swallowing. She has no abdominal pain or vomiting. She denies 
nausea, diarrhea or constipation. 

In addition, she rolled off of her couch the other night while 
watching TV and hit her head on the ground. This was without 
LOC. She suffered a small laceration on her forehead and RLE. 

She states she only takes her Advair once daily and her 
ipratropium PRN.

In the ED, initial VS were:  
T 97.8 HR 1 00 BP 161/64 R 18 SpO2 97% RA 

Exam notable for:  
palpable painful nodule in right cervical zone 2 no posterior 
pharyngeal erythema

Labs showed:
  
134|97|18  
----------<86 
6.4|25|1.1 

Repeat K 3.3

    11.2   
5.0>----<228  
    34.8  

Imaging showed:  

___ NECK/ CHEST CT W/ CONTRAST (Atrius)
IMPRESSION:
1. No cervical mass lesion, abscess or lymphadenopathy.
2. Mild concentric wall thickening of the upper and mid trachea 
which suggests a nonspecific tracheal infectious/inflammatory 
process.
3. Postsurgical changes at the left lung base are stable.
4. Moderate coronary artery calcifications. 
5. High-grade stenosis at the origins of the cervical ICAs 
bilaterally.

Consults:  
ENT who recommended IV antibiotics and admission to medicine

Patient received:  
___ 18:18 IVF  LR  
___ 18:18 PO Acetaminophen 500 mg  
___ 19:11 IV Ampicillin-Sulbactam 3 g  

On arrival to the floor, patient reports stable pain.
 
Past Medical History:
Hypothyroidism
Aspergillosis
COPD
OA
CKD III (baseline 1.4)
HLD
OA
 
Social History:
___
Family History:
Father: CAD
Aunt: ___ CA
 
Physical Exam:
==============================
ADMISSION PHYSICAL EXAMINATION
============================== 
VS: T 98.5 BP 183/72  HR 72 R 18 SpO2 96 Ra 
GEN: NAD
HEENT: Small, mobile lymph node R anterior cervical region. 
Clear OP with small amounts of pooled saliva. Small 2cm 
laceration R temple
___: RRR III/VI SEM
RESP: No increased WOB. CTAB, no stridor or wheezing.
ABD: NTND No HSM
EXT: Warm, no edema, clean bandage to RLE

==============================
DISCHARGE PHYSICAL EXAMINATION
============================== 
T:98.0 BP:145 / 68; HR:78 RR:18 O2:96 Ra 
GEN: Very well appearing woman sitting in bed and speaking to me 
comfortably 
HEENT: Tenderness to palpation of R submandibular glands. Clear 
OP. Small 2cm laceration R temple
___: S1/S2 regular with ___ systolic murmur. 
RESP: Clear bilaterally. 
ABD: Soft, non-tender, non-distended. 
EXT: Warm, no edema, clean bandage to RLE
 
Pertinent Results:
============================
ADMISSION LABORATORY STUDIES
============================
___ 05:30PM BLOOD WBC-5.0 RBC-3.85* Hgb-11.2 Hct-34.8 
MCV-90 MCH-29.1 MCHC-32.2 RDW-12.8 RDWSD-41.9 Plt ___
___ 06:15PM BLOOD ___ PTT-25.9 ___
___ 05:30PM BLOOD Glucose-86 UreaN-18 Creat-1.1 Na-134* 
K-6.4* Cl-97 HCO3-25 AnGap-12
___ 05:45PM BLOOD Lactate-2.1* K-3.3

==========================================
DISCHARGE AND PERTINENT LABORATORY STUDIES
==========================================
___ 06:49AM BLOOD WBC-4.0 RBC-3.44* Hgb-9.9* Hct-31.6* 
MCV-92 MCH-28.8 MCHC-31.3* RDW-12.5 RDWSD-41.8 Plt ___
___ 06:49AM BLOOD Glucose-90 UreaN-14 Creat-1.0 Na-141 
K-4.4 Cl-104 HCO3-25 AnGap-12
___ 06:49AM BLOOD Calcium-8.4 Phos-3.8 Mg-2.0

===========================
REPORTS AND IMAGING STUDIES
===========================
Fiberoptic Exam:

In the context of the patient's clinical presentation and the
need to visualize the regions in close proximity, the decision
was made to proceed with an endoscopic exam.  Accordingly, after
verbal consent and topical lidocaine with oxymetazoline
anesthesia, the fiberoptic scope was passed to visualize the
regions of concern.  The findings were:

Normal nasal cavity, no pus or polyps

Normal nasopharynx, no masses

Normal oropharynx

Epiglottis crisp

Supraglottic area with diffuse mild erythema but no edema

Arytenoid complexes mobile bilaterally/symetrically, mild
erythema

True vocal folds symmetric and mobile bilaterally, no masses, no
erythema

Small focus of left lateral pharyngeal wall (inferiorly)
extending into piriform sinus

Mild pooling of secretions

On repeat evaluation, patient is drinking soup slowly without 
any
evidence of coughing after swallow. She clarifies that she is
able to pass food but that it is very painful to have food
transit her throat.

IMAGING: 
CT scan from OSH -  
1. No cervical mass lesion, abscess or lymphadenopathy. 
2. Mild concentric wall thickening of the upper and mid trachea 
which suggests a nonspecific tracheal infectious/inflammatory 
process. 
3. Postsurgical changes at the left lung base are stable. 
4. Moderate coronary artery calcifications. 
5. Highgrade stenosis at the origins of the cervical ICAs
bilaterally.

============
MICROBIOLOGY
============
___ Blood Cultures = Pending
 
Brief Hospital Course:
=================
SUMMARY STATEMENT
=================
Ms. ___ as a very healthy ___ year old woman who presented 
with sore throat and was admitted due to concern for deep space 
infection. 

====================
ACUTE MEDICAL ISSUES
====================
#Odynophagia
#Dysphagia
#Tracheitis
Approximately three weeks ago, Ms. ___ developed productive 
cough and was treated with doxycycline for pneumonia/bronchitis. 
She was transitioned to a third generation cephalosporin due to 
soreness in her throat concerning for pill esophagitis. Her 
throat pain subsequently progressed to where she was intolerant 
of any foods or liquids and felt a stabbing sensation with any 
swallowing, R>L. 

She was referred to ENT at ___ with findings concerning for 
possible deep space infection, and then she was referred to the 
ED for imaging. CT neck with contrast showed no abscess, but 
"Mild concentric wall thickening of the upper and mid trachea 
which suggests a nonspecific tracheal infectious/inflammatory 
process".

She was start on vancomycin and unasyn for possible tracheitis 
or supraglottic infection. On ___ in the morning, her pain had 
improved and she tolerated oatmeal without significant pain. 

The etiology of her odynophagia includes pill esophagitis from 
doxycycline, viral infection, bacterial infection, or acid 
reflux. Pill esophagitis is certainly high on the differential. 
Bacterial infection is felt to be far less likely given a normal 
white count, no abscess or deep infection on CT, absence of 
fevers, quick improvement (thus unlikely to be due to 1 dose of 
iv antibiotics) and extremely healthy appearance. We do not feel 
there is an indication for further antibiotics. 

She does likely have some acid reflux and would therefore 
benefit from short course PPI. If the patient is not interested 
in this therapy, so we would also recommend a short trial of 
ranitidine or bismuth therapy for relief. 

She an follow-up with Dr. ___ in his clinic for repeat 
visualization should she have persistent symptoms. 

======================
CHRONIC MEDICAL ISSUES
======================
#COPD: Patient states she only takes advair QHS and PRN 
ipratropium. 

#HTN: SBP 180s on presentation, improving to 150's. Not on any 
blood pressure meds at home. Given lack of symptoms and patients 
age of ___, would not start a new blood pressure medication. 

#Hypothyroidism: No evidence of thyroid enlargement on exam or 
imaging to explain dysphagia. Continued levothyroxine. 

#Chronic Kidney Disease: Baseline Cr 1.4. Currently below 
reported baseline.

===================
TRANSITIONAL ISSUES
===================
[ ] Consider ___ week trial of omeprazole. Otherwise trial 
raniditine or bismuth therapy. 
[ ] See Dr. ___ at ___ (___) if any persistent 
symptoms. 
[ ] CT scan at ___ shows Highgrade stenosis at the origins of 
the cervical ICAs
bilaterally.  Can consider start of aspirin, vascular 
consultation.   We were unable to discuss this finding with the 
patient and I have emailed PCP to do so

- New Meds: Omeprazole 
- Stopped/Held Meds: None
- Changed Meds: None
- Code Status: DNAR/ OK to intubate, confirmed 
- Contact Information: ___ (Daughter and CHP) ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH QHS 
3. Ipratropium Bromide Neb 1 NEB IH DAILY:PRN wheezing 

 
Discharge Medications:
1.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth Twice daily Disp #*28 
Capsule Refills:*0 
2.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH QHS  
3.  Ipratropium Bromide Neb 1 NEB IH DAILY:PRN wheezing  
4.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSIS
=================
Odynophagia

===================
SECONDARY DIAGNOSES
===================
Tracheitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you while you were admitted to ___ 
___. 

WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You were having pain in your throat. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- The throat doctors (___) used a camera to look 
at your throat and saw some inflammation. 
- We gave you antibiotics in case you had an infection, but in 
the end we decided that is unlikely because you were already 
treated for one, and you don't have other signs of an infection. 


WHAT SHOULD YOU DO WHEN YOU GO HOME?
- Carefully review the attached medication list as we may have 
made changes to your medications. 
- If you have any lingering pain in your throat in several days, 
it would be a good idea to see Dr. ___ in his clinic 
(___)
- We have prescribed omeprazole, which you can take for a week. 
If you choose not take this, you can also try an over the 
counter medication such as ranitidine (Zantac) or Bismuth 
(Pepto-Bismol).

We wish you the best!

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___